US04129590
A 16 g portion of 4-amino-5-hydroxy-1,7-naphthalenedisulfonic acid in 120 ml of water is adjusted to pH7.2. A 7.6 g portion of sodium acetate trihydrate and 8.8 g of 2-methyl-5-nitrobenzoyl chloride are added with vigorous stirring. The mixture is stirred overnight at room temperature. The solid is then collected by filtration, washed with water, 80% ethanol, ethanol, ether and dried, giving 13.0 g of 5-hydroxy-4-(5-nitro-o-toluamido)-1,7-naphthalenedisulfonic acid, disodium salt.

reactant | 4-amino-5-hydroxy-1,7-naphthalenedisulfonic acid | NC1=CC=C(C2=CC(=CC(=C12)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO7S2
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 2-methyl-5-nitrobenzoyl chloride | 8.8 g | CC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C8H6ClNO3
solvent | water | 120 ml | O | H2O
product | 5-hydroxy-4-(5-nitro-o-toluamido)-1,7-naphthalenedisulfonic acid | 13.0 g | OC1=C2C(=CC=C(C2=CC(=C1)S(=O)(=O)O)S(=O)(=O)O)NC(=O)C=1C(=CC(=CC1)[N+](=O)[O-])C | C18H14N2O10S2
